US04426385
Part B: Preparation of 4-(4-Chloro-5,6,7,8-tetrahydro-1-naphthoxy)-3,5-dimethylaniline
A 1 L rocking Parr hydrogenator was charged with a solution containing 19.11 g of 4-(4-chloro-5,6,7,8-tetrahydro-1-naphthoxy)-3,5-dimethyl-1-nitrobenzene in 600 mL of toluene. To this was then added 1.0 g of 5% platinum on carbon. This was then placed under an atmosphere of hydrogen at 100 psi. The internal pressure was maintained between 80 and 100 psi while hydrogen uptake continued. When the hydrogen uptake ceased, the contents of the hydrogenator were removed and the vessel washed with toluene. The washings were combined with the reaction mixture. This was then filtered through celite. Removal of the solvents afforded 17.30 g of pale yellow solid. mp 126°-135° C. NMR(CDCl3): δ1.6-1.8 (m, 4H), 2.0 (S, 6H), 2.6-2.9 (m, 4H), 3.45 (S, 2H), 6.13 (d, J=9 Hz, 1H), 6.37 (S, 2H), 6.93 (d, J= 9 Hz, 1H).

reactant | 4-(4-chloro-5,6,7,8-tetrahydro-1-naphthoxy)-3,5-dimethyl-1-nitrobenzene | 19.11 g | ClC1=CC=C(C=2CCCCC12)OC1=C(C=C(C=C1C)[N+](=O)[O-])C | C18H18ClNO3
reactant | hydrogen | [H][H] | H2
solvent | toluene | 600 mL | C1(=CC=CC=C1)C | C7H8
catalyst | platinum on carbon | 1.0 g | [Pt] | Pt
product | 4-(4-Chloro-5,6,7,8-tetrahydro-1-naphthoxy)-3,5-dimethylaniline | 17.30 g | ClC1=CC=C(C=2CCCCC12)OC1=C(C=C(N)C=C1C)C | C18H20ClNO
